US06713474B2
A mixture of 5-(4-benzyloxyphenyl)-7-(tetrahydropyran-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (2.83 g), 10% palladium on carbon (1.41 g), ammonium formate (2.31 g) and ethanol (250 ml) was boiled under reflux under nitrogen with stirring for 1.5 hours. The mixture was cooled to ambient temperature, filtered, then the filtrate cooled and filtered. The filtrate was evaporated to give a solid 4-[4-amino-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]phenol.

reactant | 5-(4-benzyloxyphenyl)-7-(tetrahydropyran-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 2.83 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCOCC2 | C24H24N4O2
reactant | ammonium formate | 2.31 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 1.41 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-[4-amino-7-(4-tetrahydropyranyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]phenol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)O)C2CCOCC2 | C17H18N4O2
